US05811428
A solution of ethyl 3-N,N-dimethylamino-2-formylacrylate (4.0 g, 23 mmol) (Arnold, Coll. Czech. Chem. Commun. 26:3051, 1961), benzamidine hydrochloride (4.0 g, 26 mmol) and sodium (0.65 g, 28 mmol) in EtOH (40 mL) was heated at reflux for 1 h. The solution was filtered and concentrated and the residue partitioned between EtOAc and dilute HCl (10%). The organic layer was dried (Na2SO4), and concentrated to give ethyl 2-phenylpyrimidine-5-carboxylate (4.0 g, 75% yield); m.p. >220° C. (dec.).

reactant | ethyl 3-N,N-dimethylamino-2-formylacrylate | 23 mmol, 4.0 g | CCOC(=O)/C(=C/N(C)C)/C=O | C8H13NO3
reactant | benzamidine hydrochloride | 26 mmol, 4.0 g | Cl.C(C1=CC=CC=C1)(=N)N
reactant | sodium | 28 mmol, 0.65 g | [Na] | Na
solvent | EtOH | 40 mL | CCO | C2H6O
product | ethyl 2-phenylpyrimidine-5-carboxylate | 4.0 g, 75% yield | C1(=CC=CC=C1)C1=NC=C(C=N1)C(=O)OCC | C13H12N2O2
